US06262058B1
In a sulfonation flask, 1.7 g (0.028 mol) of n-propylamine are added dropwise to 30 ml of tetrahydrofuran and 5.2 g (0.026 mol) of methyl 3-isothiocyanatothiophene-2-carboxylate, dissolved in 30 ml of tetrahydrofuran, such that the internal temperature does not rise above 35° C. The reaction mixture is then stirred for 16 hours at reflux temperature and the tetrahydrofuran is then removed in a water-jet vacuum. The residue is taken up in ethyl acetate and extracted three times with water. The organic phase is then dried over sodium sulfate and the solvent is removed in the water-jet vacuum, giving the 3-propyl-2-thioxo-2,3-di-hydro-1 H-thieno[3.2-d]pyrimidin-4-one crude product which can be purified by digestion in tert-butylmethyl ether. The slightly brownish powder (5.3 g) has a melting point of >230° C.

reactant | n-propylamine | 0.028 mol, 1.7 g | C(CC)N | C3H9N
reactant | methyl 3-isothiocyanatothiophene-2-carboxylate | 0.026 mol, 5.2 g | N(=C=S)C1=C(SC=C1)C(=O)OC | C7H5NO2S2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-propyl-2-thioxo-2,3-di-hydro-1 H-thieno[3.2-d]pyrimidin-4-one | C(CC)N1C(NC2=C(C1=O)SC=C2)=S | C9H10N2OS2
